US04132737
One gram of 6-trifluoromethyl-1-indanone was converted to the corresponding oxime by reaction with 1.92 g. of hydroxylamine hydrochloride in 4 ml. of pyridine and 20 ml. of anhydrous ethanol. The mixture was refluxed for 24 hours and then poured into cold water. The oxime precipitated and was separated by filtration. The filter cake was washed with hot water. 1.02 g. of a white powdery solid melting at 128°-32° C. comprising 6-trifluoromethyl-1-indanone oxime were obtained. The compound melted at 132°-7° C. after recrystallization from an ethyl acetatecyclohexane solvent mixture.

reactant | 6-trifluoromethyl-1-indanone | One gram | FC(C1=CC=C2CCC(C2=C1)=O)(F)F | C10H7F3O
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-trifluoromethyl-1-indanone oxime | FC(C1=CC=C2CCC(C2=C1)=NO)(F)F | C10H8F3NO
